US05338726
(S)-2-Amino-2-cyclohexylacetic acid
L-Phenylglycine (8.04 g, 53 mmol) was reduced by catalytic hydrogenation using PtO2 in 80% acetic acid (HOAc) (200 mL). The catalyst was removed by filtration and the HOAc removed under reduced pressure to afford the title compound as a white solid (7.8 g, 94%). The 300 MHz 1H NMR spectrum was found to be consistent with the proposed structure.

reactant | L-Phenylglycine | 53 mmol, 8.04 g | C1=CC=C(C=C1)[C@@H](C(=O)O)N | C8H9NO2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | O=[Pt]=O
product | (S)-2-Amino-2-cyclohexylacetic acid | 7.8 g, 94% | N[C@H](C(=O)O)C1CCCCC1 | C8H15NO2
